* C:\RIT\Fifth_Year\MSD_I\MSD_P18538\hardware\rpi_hat_spice\rpi_hat.asc
XU2 N001 Rpi_5v Battery+ LT1085
V1 Battery+ 0 6.5
R1 Rpi_5v N001 121
R2 N001 0 365
C1 Battery+ 0 10pF
C2 Rpi_5v 0 10µF
* 5V, 3A linear regulator
.op
.lib LT1083.lib
.backanno
.end
